US04442300
Preparation of 1-[3,5-bis-(4-pivaloyloxybenzoyloxy)phenyl]-2-cyclobutylaminoethanol sulphate
A solution of 2.2 g of 3',5'-bis-(4-pivaloyloxybenzoyloxy)-2-cyclobutylamino acetophenone hydrochloride in 75 ml of ethanol was hydrogenated at 380 kPa (55 psig) and 45° C. for 18 hrs in the presence of 0.4 g 10% Pd/C. After filtering off the catalyst the filtrate was evaporated to dryness to give an oil as residue. This oil was partitioned between ethyl ether and 10% sodium carbonate solution. The ether phase was dried over MgSO4, filtered and evaporated to dryness to give a crystalline residue. The residue was dissolved in ethanol which was acidified with ethanolic sulphuric acid to pH 5.5. After evaporation, the residue was recrystallized from isopropanol/ethyl ether. The identity of the product was confirmed with NMR.

reactant | 3',5'-bis-(4-pivaloyloxybenzoyloxy)-2-cyclobutylamino acetophenone hydrochloride | 2.2 g | Cl.C(C(C)(C)C)(=O)OC1=CC=C(C(=O)OC=2C=C(C=C(C2)OC(C2=CC=C(C=C2)OC(C(C)(C)C)=O)=O)C(CNC2CCC2)=O)C=C1
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 75 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.4 g | [Pd] | Pd
product | 1-[3,5-bis-(4-pivaloyloxybenzoyloxy)phenyl]-2-cyclobutylaminoethanol sulphate | S(=O)(=O)(O)OC(CNC1CCC1)C1=CC(=CC(=C1)OC(C1=CC=C(C=C1)OC(C(C)(C)C)=O)=O)OC(C1=CC=C(C=C1)OC(C(C)(C)C)=O)=O | C36H41NO12S
